US09163008B2
A mixture of 2-(4-fluoro-phenoxy)-5-iodo-pyridine (6.75 g, 21.3 mmol), pinacol diborane (5.42 g, 21.3 mmol), KOAc (6.26 g, 64 mmol) and Pd(dppf)Cl2 (0.82 g, 1 mmol) in dioxanes was purged with Ar for 2 minutes. The mixture was stirred under Ar for 14 hrs and worked up with EtOAc. Removal of EtOAc followed by silica gel flash chromatography (Hexanes/EtOAc) gave 2-(4-fluoro-phenoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine as a colorless solid (4.5 g, yield 67%). LC/MS: m/z=317 [M+H]+

reactant | 2-(4-fluoro-phenoxy)-5-iodo-pyridine | 21.3 mmol, 6.75 g | FC1=CC=C(OC2=NC=C(C=C2)I)C=C1 | C11H7FINO
reactant | pinacol diborane | 21.3 mmol, 5.42 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 64 mmol, 6.26 g | CC(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 1 mmol, 0.82 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-fluoro-phenoxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 4.5 g, yield 67% | FC1=CC=C(OC2=NC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C17H19BFNO3
